US08809547B2
Step 1: N-Formylnicotinic acid hydrazide
25 g (182 mmol) of nicotinic acid hydrazide were stirred in 50 ml (1325 mmol) of formic acid for 16 h, 500 ml of diethyl ether were added and the precipitate formed was filtered off with suction. The filter residue was washed with diethyl ether and dried.

reactant | nicotinic acid hydrazide | 182 mmol, 25 g | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
reactant | formic acid | 1325 mmol, 50 ml | C(=O)O | CH2O2
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | N-Formylnicotinic acid hydrazide | C(=O)N(N)C(C1=CN=CC=C1)=O | C7H7N3O2
